US08809342B2
6-{(S)-3-Methyl-1-[2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butylamino}-nicotinic acid (31.1 g wet with ethyl acetate, theoretical 65.8 mmol) was dissolved in dichloromethane (270 mL). 1-Hydroxybenotriazole hydrate (15.1 g, 98.7 mmol) was added followed by N-(3-dimethylaminopropyl)-N′-ethylcarbodimide hydrochloride (18.9 g, 98.7 mmol). beta-Alanine ethyl ester hydrochloride (12.1 g, 79.0 mmol) was added and the reaction was placed in an ice bath. When only slightly cool, triethylamine (18.3 mL, 132 mmol) was added over 3 min. The bath was then removed and the reaction was stirred at room temperature as a solution. At 16 h, most of the dichloromethane was rotovapped off. The residue was partitioned between ethyl acetate and sat. NH4Cl. The aqueous was extracted with additional ethyl acetate and the combined organics were washed with sat. NaHCO3 two times. The first aqueous was back extracted with ethyl acetate to remove a small amount of product. The combined organics were washed with brine and dried over MgSO4. The material was purified by silica gel flash chromatography (ethyl acetate/heptane) and then further purified by chiral SFC. Column: Chiralcel OJ-H. Dimensions: 21 mm×250 mm. Mobile Phase: 80/20 CO2/ethanol. Flow Rate: 65 ml/min. The purified material was taken up in ethyl acetate, filtered through a course frit and concentrated in vacuo to give 3-[(6-{(S)-3-methyl-1-[2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butylamino}-pyridine-3-carbonyl)-amino]-propionic acid ethyl ester with ethyl acetate (29.2 g) as a white foam. 1H NMR (400 MHz, CDCl3, δ): 8.83 (s, 2 H) 8.54 (d, J=8.0 Hz, 2 H) 8.46 (d, J=2.0 Hz, 1 H) 7.81 (dd, J=8.7, 2.2 Hz, 1 H) 7.73 (d, J=8.4 Hz, 2 H) 6.64 (t, J=5.8 Hz, 1 H) 6.36 (d, J=8.6 Hz, 1 H) 5.13 (d, J=6.7 Hz, 1 H) 4.97-5.08 (m, 1 H) 4.09-4.21 (m, 2 H) 3.68 (q, J=5.9 Hz, 2 H) 2.60 (t, J=5.9 Hz, 2 H) 1.81-1.95 (m, 1 H) 1.67-1.81 (m, 2 H) 1.26 (t, J=7.1 Hz, 3 H) 1.03 (d, J=6.1 Hz, 3 H) 1.00 (d, J=6.1 Hz, 3 H); MS (M+1): 530.2. Analytical chiral SFC: Column—Chiralcel OJ-H. Dimensions: 4.6 mm×25 cm. Mobile Phase: 80/20 CO2/ethanol. Flow Rate: 2.5 mL/min. Retention time: 5.18 minutes.

reactant | 6-{(S)-3-Methyl-1-[2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butylamino}-nicotinic acid | 65.8 mmol, 31.1 g | CC(C[C@@H](C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)NC1=NC=C(C(=O)O)C=C1)C | C22H21F3N4O2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodimide hydrochloride | 98.7 mmol, 18.9 g | Cl.CN(CCCN=C=NCC)C
reactant | beta-Alanine ethyl ester hydrochloride | 79.0 mmol, 12.1 g | Cl.C(C)OC(CCN)=O
reactant | triethylamine | 132 mmol, 18.3 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 270 mL | ClCCl | CH2Cl2
product | 3-[(6-{(S)-3-methyl-1-[2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butylamino}-pyridine-3-carbonyl)-amino]-propionic acid ethyl ester | C(C)OC(CCNC(=O)C=1C=NC(=CC1)N[C@@H](CC(C)C)C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)=O | C27H30F3N5O3
